US04655971
PREPARATION OF CLOBETASONE 17-BUTYRATE
Butyric anhydride (5.28 ml; 32.37 mmoles), trifluoroacetic acid (2.376 ml; 31.05 mmoles) were mixed at 0° C., then methanesulphonic acid (0.200 ml), nitromethane (20.0 ml) and 21-chloro-9α-fluoro-17α-hydroxy-16β-methylpregna-1,4-diene-3,11,20-trione (4.00 g; 9.78 mmoles) were added. The reaction mixture was stirred at 40° C. for 3 hours and then poured slowly into ice cold water, to give an oily solid, which was filtered, water washed and dried to yield 3.71 g. Recrystallisation from methanol gave an analytical sample with a melting point of 184°-6° C. and a specific rotation in dioxan of +127.98°.

reactant | Butyric anhydride | 32.37 mmoles, 5.28 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | trifluoroacetic acid | 31.05 mmoles, 2.376 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methanesulphonic acid | 0.200 ml | CS(=O)(=O)O | CH4O3S
reactant | 21-chloro-9α-fluoro-17α-hydroxy-16β-methylpregna-1,4-diene-3,11,20-trione | 9.78 mmoles, 4.00 g | ClCC([C@]1([C@H](C[C@H]2[C@@H]3CCC4=CC(C=C[C@]4(C)[C@]3(C(C[C@]12C)=O)F)=O)C)O)=O | C22H26ClFO4
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | nitromethane | 20.0 ml | [N+](=O)([O-])C | CH3NO2
product | CLOBETASONE 17-BUTYRATE | CCCC(=O)O[C@@]1([C@H](C[C@@H]2[C@@]1(CC(=O)[C@]3([C@H]2CCC4=CC(=O)C=C[C@@]43C)F)C)C)C(=O)CCl | C26H32ClFO5
